US03939172
4-Trifluoroacetamidothiazole
A mixture of 50 g. (0.182 mole) of 2-bromo-4-trifluoroacetamidothiazole 36.5 g. (0.268 mole) of sodium acetate, trihydrate and 16.6 g. of 10% palladium on carbon in 1.5 l. of absolute ethanol is hydrogenated at one atmosphere over 18 hours at room temperature. The catalyst is filtered off and washed well with ethanol. The filtrate is evaporated to dryness and the residue extracted several times with warm methylene chloride. The combined extracts are evaporated to dryness and the residue crystallized from carbon tetrachloride (activated carbon treatment) to give 25 g (70%) of heavy white crystals m.p. 138°-9°C. Recrystallization of the second crop obtained from the mother liquor raises the yield to 28.5 g. (80%). The product can also be satisfactorily recrystallized from ethanol/water mixtures.

reactant | 2-bromo-4-trifluoroacetamidothiazole | 0.182 mole, 36.5 g | BrC=1SC=C(N1)NC(C(F)(F)F)=O | C5H2BrF3N2OS
reactant | sodium acetate, trihydrate | 0.268 mole | O.O.O.C(C)(=O)[O-].[Na+]
catalyst | palladium on carbon | [Pd] | Pd
solvent | ethanol | C(C)O | C2H6O
product | 4-Trifluoroacetamidothiazole | 25 g, 70% | FC(C(=O)NC=1N=CSC1)(F)F | C5H3F3N2OS
